US08071592B2
1-(2-{4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-2(1H)-quinoxalinone dihydrochloride
A solution of 1-[2-(4-amino-1-piperidinyl)ethyl]-7-(methyloxy)-2(1H)-quinoxalinone (200 mg; 0.66 mmol) and 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde (116 mg, 0.70 mmol) in MeOH (8 mL) and chloroform (8 mL) was heated under reflux with 3A molecular sieves overnight. It was cooled and sodium triacetoxyborohydride (0.54 g; 2.55 mmol) was added, and the mixture was stirred at rt overnight. More aldehyde (20 mg) and acetoxyborohydride (100 mg) were added, and this was repeated after 7 h. The mixture was left stirring for three days, then aqueous sodium bicarbonate solution was added to basify and the phases were separated. The aqueous phase was extracted three times with 10% MeOH-DCM, and the organic fractions were dried and evaporated. Chromatography on silica gel, eluting with 0-20% MeOH-DCM gave the free base of the title compound (155 mg, 52%).

reactant | 1-[2-(4-amino-1-piperidinyl)ethyl]-7-(methyloxy)-2(1H)-quinoxalinone | 0.66 mmol, 200 mg | NC1CCN(CC1)CCN1C(C=NC2=CC=C(C=C12)OC)=O | C16H22N4O2
reactant | 6,7-dihydro[1,4]dioxino[2,3-c]pyridazine-3-carbaldehyde | 0.70 mmol, 116 mg | N1=NC(=CC2=C1OCCO2)C=O | C7H6N2O3
reactant | sodium triacetoxyborohydride | 2.55 mmol, 0.54 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | acetoxyborohydride | 100 mg | C(C)(=O)O[BH3-]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform | 8 mL | C(Cl)(Cl)Cl | CHCl3
solvent | MeOH | 8 mL | CO | CH4O
product | 1-(2-{4-[(6,7-dihydro[1,4]dioxino[2,3-c]pyridazin-3-ylmethyl)amino]-1-piperidinyl}ethyl)-7-(methyloxy)-2(1H)-quinoxalinone dihydrochloride | 155 mg, 52% | Cl.Cl.N1=NC(=CC2=C1OCCO2)CNC2CCN(CC2)CCN2C(C=NC1=CC=C(C=C21)OC)=O | InChI=1S/C23H28N6O4.2ClH/c1-31-18-2-3-19-20(13-18)29(22(30)15-25-19)9-8-28-6-4-16(5-7-28)24-14-17-12-21-23(27-26-17)33-11-10-32-21;;/h2-3,12-13,15-16,24H,4-11,14H2,1H3;2*1H
